US06486342B1
To a stirring solution of 3,5-dimethylaniline (5.0 g, 41.3 mmol), mandelic acid (7.69 g, 41.3 mmol) and 1-hydroxybenzotriazole hydrate (6.14 g, 45.5 mmol) in dimethylformamide (100 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (8.73 g, 45.5 mmol) under nitrogen at room temperature. After stirring further for 16 hr, the reaction mixture was diluted with ethyl acetate (200 mL) and washed with 10% potassium hydrogen sulfate (2×50 mL), brine (50 mL), saturated sodium hydrogen carbonate (2×50 mL) and brine (50 mL). The organic phase was dried (MgSO4) and evaporated to give the product N-(3,5-Dimethyl-phenyl)-2-hydroxy-2-(4-hydroxy-phenyl) acetamide in 9.3 g yield.

reactant | 3,5-dimethylaniline | 41.3 mmol, 5.0 g | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | mandelic acid | 41.3 mmol, 7.69 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | 1-hydroxybenzotriazole hydrate | 45.5 mmol, 6.14 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 45.5 mmol, 8.73 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-(3,5-Dimethyl-phenyl)-2-hydroxy-2-(4-hydroxy-phenyl) acetamide | CC=1C=C(C=C(C1)C)NC(C(C1=CC=C(C=C1)O)O)=O | C16H17NO3
